US07723347B2
N1-(3-Chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-2-fluorobenzene-1,4-diamine
147 mg (650 μmol) of tin(II) chloride dihydrate are added to a solution of 40 mg (130 μmol) of 3-chloro-N-(2-fluoro-4-nitrophenyl)-1H-pyrrolo[2,3-b]pyridine-4-amine in 2.50 ml of DMF, and this solution is stirred at RT overnight. 5 ml of water are then added, and the pH is adjusted to 10 using saturated sodium bicarbonate solution. After filtration through Celite, the Celite is washed with 40 ml of ethyl acetate. The aqueous phase of the filtrate is extracted twice with 10 ml of ethyl acetate. The combined organic phases are washed in each case twice with 5 ml of water and 5 ml of saturated sodium chloride solution and dried with sodium sulfate. Concentration under reduced pressure affords the target compound which is reacted further without purification.

reactant | tin(II) chloride dihydrate | 650 μmol, 147 mg | O.O.[Sn](Cl)Cl
reactant | 3-chloro-N-(2-fluoro-4-nitrophenyl)-1H-pyrrolo[2,3-b]pyridine-4-amine | 130 μmol, 40 mg | ClC1=CNC=2N=CC=C(C21)NC2=C(C=C(C=C2)[N+](=O)[O-])F | C13H8ClFN4O2
reactant | water | 5 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 2.50 ml | CN(C)C=O | C3H7NO
product | N1-(3-Chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-2-fluorobenzene-1,4-diamine | ClC1=CNC2=NC=CC(=C21)NC2=C(C=C(C=C2)N)F | C13H10ClFN4
